US05807857
5. Ethyl 3-(5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate
Ethyl 3-(5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate (0.4 g, 1.4 mmol) was hydrogenated over palladium on carbon (10%, 0.25 g) in ethanol (50 mL) at 45 psi of hydrogen for 6 hours. The catalyst was removed by filtration and the solvent evaporated in vacuo to give the title compound (0.32 g, 80%) as a colourless solid. mp 215°-218° C. 1H NMR (360 MHz, CDCl3 : d4 -MeOH 9:1) δ 1.23 (3H, t, J=7.1Hz), 2.72 (2H, t, J=7.4Hz), 3.12 (2H, t, J=7.4Hz), 4.13 (2H, q, J=7.1Hz), 7.36 (1H, s), 7.61 (1H, s), 8.60 (1H, s) and 8.89 (2H, s).

reactant | Ethyl 3-(5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate | 1.4 mmol, 0.4 g | N=1N=CN(C1)C=1C=C2C(=CN1)NC=C2C=CC(=O)OCC | C14H13N5O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 3-(5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate | 0.32 g, 80% | N=1N=CN(C1)C=1C=C2C(=CN1)NC=C2CCC(=O)OCC | C14H15N5O2
